US07214690B2
This compound was prepared according to the procedure described in EXAMPLE 41 (Structure 24 of Scheme V) from (2R)-2-[2-fluoro-4-nitro(2,2,2-trifluoroethyl)anilino]-4-methyl-1-pentanol (1.95 g, 5.76 mmol) in 30 mL THF and NaH (1.4 g, 35 mmol) in 25 mL THF heated at reflux for 1 hr to afford 0.87 g (50%) of (3R)-3,4-dihydro-3-isobutyl-7-nitro-4-(2,2,2-trifluoroethyl)-2H-1,4-benzoxazine, a yellow oil. Data for (3R)-3,4-dihydro-3-isobutyl-7-nitro-4-(2,2,2-trifluoroethyl)-2H-1,4-benzoxazine: Rf0.6 (3:1 hexanes:EtOAc); 1H NMR (400 MHz, CDCl3) δ 7.79 (dd, 1H, J=9.1, 2.7), 7.71 (d, 1H, J=2.5), 6.72 (d, 1H, J=9.1), 4.30 (dd, 1H, ABx, J=11.0, 1.5), 4.19–4.06 (m, 1H), 4.06–4.01 (m, 1H), 3.82–3.73 (m, 1H), 3.53–3.47 (m, 1H), 1.71–1.61 (m, 2H), 1.38–1.29 (m, 1H), 0.99 (d, 3H, J=6.5), 0.96 (d, 3H, J=6.5).

reactant | (2R)-2-[2-fluoro-4-nitro(2,2,2-trifluoroethyl)anilino]-4-methyl-1-pentanol | 5.76 mmol, 1.95 g | FC1=C(N([C@@H](CO)CC(C)C)CC(F)(F)F)C=CC(=C1)[N+](=O)[O-] | C14H18F4N2O3
reactant | NaH | 35 mmol, 1.4 g | [H-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (3R)-3,4-dihydro-3-isobutyl-7-nitro-4-(2,2,2-trifluoroethyl)-2H-1,4-benzoxazine | 0.87 g, 50% | C(C(C)C)[C@@H]1COC2=C(N1CC(F)(F)F)C=CC(=C2)[N+](=O)[O-] | C14H17F3N2O3
